US07250446B2
(4-Methylthiophenyl)-naphth-1-yl-carbinol (1: R=CHOH, R1=H, R2=H, R3=SMe):
(4-Methylthiophenyl)-naphth-1-yl-ketone (10 g, 35.9 mmol) was dissolved in of methanol (100 ml), then sodium borohydride (4.5 g, 118.9 mmol) was added slowly and the reaction mixture was stirred for 6 hours. Then methanol was distilled off and the reaction mixture was extracted with ethylacetate. The organic layer extract was washed with water, dried over anhydrous sodium sulfate, and concentrated to give oil, which was crystallized from benzene-hexane to give the desired compound.

reactant | (4-Methylthiophenyl)-naphth-1-yl-ketone | 35.9 mmol, 10 g | CSC1=CC=C(C=C1)C(=O)C1=CC=CC2=CC=CC=C12 | C18H14OS
reactant | sodium borohydride | 118.9 mmol, 4.5 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | (4-Methylthiophenyl)-naphth-1-yl-carbinol | CSC1=CC=C(C=C1)C(O)C1=CC=CC2=CC=CC=C12 | C18H16OS
